US04077982
2-(2-Chloroethyl)-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane
According to the procedure of Example 47, 8.5 g of chloroacetaldehyde diethyl acetal and 11.0 g of 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol were reacted in the presence of 0.02 g of p-toluenesulfonic acid to give, after separation by column chromatography, 5.1 g of t-2-(2-chloroethyl)-r-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane, b.p. 130°/0.005 mm, nD25 1.5026; and 4.3 g of c-2-(2-chloroethyl)-r-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane, b.p. 120°/0.01 mm; nD25 1.5050. The ir and nmr spectra were consistent with the assigned structures.

reactant | chloroacetaldehyde diethyl acetal | 8.5 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol | 11.0 g | FC1=C(COC(CO)(CO)C)C=CC=C1 | C11H15FO3
reactant | p-toluenesulfonic acid | 0.02 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(2-Chloroethyl)-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane | ClCCC1OCC(CO1)(C)OCC1=C(C=CC=C1)F | C14H18ClFO3
